US04018768
4-chloro-9-nitro[1]benzothieno[3,2-d]-v-triazine
The process of Example 2 was followed in general, using 4.4 g. of 3-amino-4-nitrobenzo[b]thiophene-2-carbonitrile and 1.7 g. of sodium nitrite in 60 ml. of concentrated hydrochloric acid and 60 ml. of glacial acetic acid. The product was recrystallized from a dimethylformamide, and the yield was 4.0 g. of purified 4-chloro-9-nitro[1]benzothieno[3,2-d]-v-triazine, m.p. 171°-173° C.

reactant | 3-amino-4-nitrobenzo[b]thiophene-2-carbonitrile | NC=1C2=C(SC1C#N)C=CC=C2[N+](=O)[O-] | C9H5N3O2S
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-chloro-9-nitro[1]benzothieno[3,2-d]-v-triazine | ClC=1C2=C(N=NN1)C1=C(S2)C=CC=C1[N+](=O)[O-] | C9H3ClN4O2S
